US06972287B1
Preparation of 2-{4-[2-(3,4,5-Trimethoxy-phenyl)ethyl]phenylamino}-benzoic acid
To a solution of 2-{4-[2-(3,4,5-trimethoxyphenyl)ethyl]phenylamino}-benzoic acid methyl ester (0.62 g, 1.47 mmol) in THF-EtOH (2:1, 6 mL), 1N NaOH solution (4 mL) was added, and the reaction mixture was heated to reflux for 5 hours. The reaction mixture was then concentrated in vacuo to remove the organic solvent. The residue was acidified with concentrated HCl (pH 3). This precipitate was collected by filtration, triturated with boiling MeOH—H2O (4:1) and dried in vacuum at room temperature for 16 hours to give the title compound as a white solid, 0.59 g (1.45 mmol, 98.5%). mp 146.0-147.0° C.

reactant | 2-{4-[2-(3,4,5-trimethoxyphenyl)ethyl]phenylamino}-benzoic acid methyl ester | 1.47 mmol, 0.62 g | COC(C1=C(C=CC=C1)NC1=CC=C(C=C1)CCC1=CC(=C(C(=C1)OC)OC)OC)=O | C25H27NO5
solvent | THF EtOH | 6 mL | C1CCOC1.CCO
solvent | NaOH | 1N, 4 mL | [OH-].[Na+]
product | 2-{4-[2-(3,4,5-Trimethoxy-phenyl)ethyl]phenylamino}-benzoic acid | COC=1C=C(C=C(C1OC)OC)CCC1=CC=C(C=C1)NC1=C(C(=O)O)C=CC=C1 | C24H25NO5
